US04602093
Step A: 2-(p-Methoxyphenylmethyl)-4-methylimidazole (I)
A solution of chloroacetone (5.27 g, 0.057 m) in CHCl3 (90 mL) was added to a stirred suspension of 4-methoxyphenylacetamidine (28.0 g, 0.17 m) in CHCl3 (470 mL) over 1 hour. The mixture was heated at reflux for 75 minutes and then stirred at ambient temperature for 43 hours. The mixture was filtered and the filtrate was concentrated under reduced pressure. The oily residue was chromatographed on alumina and eluted with CHCl3 to yield 8.14 g (71%) of I; m.p. 108°-109° C. (CHCl3 -C6H14).

reactant | chloroacetone | 5.27 g | ClCC(C)=O | C3H5ClO
reactant | 4-methoxyphenylacetamidine | 28.0 g | COC1=CC=C(C=C1)CC(=N)N | C9H12N2O
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 470 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(p-Methoxyphenylmethyl)-4-methylimidazole | COC1=CC=C(C=C1)CC=1NC=C(N1)C | C12H14N2O
